US07354957B2
Preparation of 2-Carboxymethoxythioxanthone
24 g sodium hydroxide was refluxed in 400 ml tetrahydrofuran for five minutes. 22.8 g (0.1 mols) 2-hydroxythioxanthone was added and reflux was continued for 1 hour, during which time the colour changed to bright red, indicating the formation of the sodium salt of 2-hydroxythioxanthone. 35.1 g (0.21 mols) of ethyl bromoacetate was added and reflux was continued for three hours. After cooling to room temperature, 400 ml of deionised water was added, with stirring, and the tetrahydrofuran was distilled out to yield a clear red solution. Reflux was continued for a further 2 hours in order to hydrolyse all the ester intermediate. The solution was then cooled to 50° C., and 400 ml 1.0 M hydrochloric acid was added, with stirring, causing the solid product to precipitate out. After refluxing for a further five minutes to be sure that all the sodium salt was converted to free acid, the solution was cooled to room temperature and stirred for two hours before filtering off the solid, washing with 400 ml deionised water and drying in a vacuum oven at 80° C.

reactant | sodium hydroxide | 24 g | [OH-].[Na+]
reactant | 2-hydroxythioxanthone | 0.1 mols, 22.8 g | OC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H8O2S
reactant | sodium | [Na] | Na
reactant | ethyl bromoacetate | 0.21 mols, 35.1 g | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 1.0 M, 400 ml | Cl | ClH
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 400 ml | O | H2O
product | 2-Carboxymethoxythioxanthone | C(=O)(O)COC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C15H10O4S
